US09227971B2
Step 3: Preparation of 2,2,2-trifluoro-1-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)ethanol
A mixture of 1-(5-bromopyridin-2-yl)-2,2,2-trifluoroethanol (1.28 g, 5.00 mmol), bis(pinacolato)diboron (1.52 g, 6.00 mmol), PdCl2(dppf) (408 mg, 0.500 mmol), and KOAc (1.47 g, 15.0 mmol) in dioxane (20 mL) was degassed and then heated at 80° C. and stirred overnight. The reaction mixture was filtered and concentrated to afford the crude titled compound, which was used without further purification.

reactant | 1-(5-bromopyridin-2-yl)-2,2,2-trifluoroethanol | 5.00 mmol, 1.28 g | BrC=1C=CC(=NC1)C(C(F)(F)F)O | C7H5BrF3NO
reactant | bis(pinacolato)diboron | 6.00 mmol, 1.52 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 15.0 mmol, 1.47 g | CC(=O)[O-].[K+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.500 mmol, 408 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2,2,2-trifluoro-1-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)ethanol | FC(C(O)C1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C)(F)F | C13H17BF3NO3
